US07947693B2
(2R)-2-{[2-Amino-5-({1-[3-(trifluoromethyl)phenyl]ethyl}thio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl]amino}-4-methylpentan-1-ol
The title compound was synthesized as a mixture of two diastereomers by general method A from the reaction of (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol (30 mg, 0.1 mmol) with 3-(1-bromoethyl)trifluoromethylbenzene (15.5 μL, 0.1 mmol) to give 38 mg (81% yield) as an oil.

reactant | (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 0.1 mmol, 30 mg | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
reactant | 3-(1-bromoethyl)trifluoromethylbenzene | 0.1 mmol, 15.5 μL | BrC(C)C=1C=C(C=CC1)C(F)(F)F | C9H8BrF3
product | (2R)-2-{[2-Amino-5-({1-[3-(trifluoromethyl)phenyl]ethyl}thio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl]amino}-4-methylpentan-1-ol | 81% yield | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)SC(C)C2=CC(=CC=C2)C(F)(F)F)N1 | C20H24F3N5OS2
